US08609656B2
1-[4-(6-Aminopurin-9-yl)-2-fluorophenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride (Table 1, Compound No. 33)
The title compound can be synthesized from adenine, 2,4-difluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by the same method as in Examples 29 and 30.

reactant | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | 2,4-difluoronitrobenzene | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-[4-(6-Aminopurin-9-yl)-2-fluorophenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC(=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)F | InChI=1S/C19H12ClF4N7O.ClH/c20-12-3-1-9(5-11(12)19(22,23)24)29-18(32)30-14-4-2-10(6-13(14)21)31-8-28-15-16(25)26-7-27-17(15)31;/h1-8H,(H2,25,26,27)(H2,29,30,32);1H
